US07968720B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester
2,2-Difluoro-ethylamine hydrochloride (1.70 g, 14.4 mmol) and DIPEA (2.47 mL, 14.4 mmol) were added to a sol. of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde (2.74 g, 9.62 mmol) in MeOH (80 mL). The mixture was heated to reflux for 5 h, and was allowed to cool to rt. NaBH4 (546 mg, 14.4 mmol) was added in portions, and the mixture was stirred for 2 h at rt. The solvents were removed under reduced pressure, and the residue was taken in EtOAc. The mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. The residue was dissolved in CH2Cl2 (53 mL), and DIPEA (4.94 mL, 28.9 mmol) and Boc2O (3.15 g, 14.4 mmol) were added. The mixture was stirred for 1 h at rt, and was washed with aq. 1M HCl, aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude title compound (4.35 g, quantitative yield) that was used further without purification. LC-MS: tR=1.25 min; ES+: 394.08.

reactant | 2,2-Difluoro-ethylamine hydrochloride | 14.4 mmol, 1.70 g | Cl.FC(CN)F
reactant | DIPEA | 14.4 mmol, 2.47 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde | 9.62 mmol, 2.74 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=CC1Cl)(C)C | C14H21ClO2Si
reactant | NaBH4 | 14.4 mmol, 546 mg | [BH4-].[Na+]
reactant | DIPEA | 28.9 mmol, 4.94 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 14.4 mmol, 3.15 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 80 mL | CO | CH4O
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester | 4.35 g, quantitative yield | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H34ClF2NO3Si
